US06303120B1
4,6-di-O-benzyl-3-O-(4-methoxybenzyl)-D-galactal (3b).
A solution of 3-O-(4-methoxybenzyl)-D-galactal (2.28 g, 8.56 mmol) and benzyl bromide (3.75 mL, 3.68 mol equiv; freshly passed through basic alumina) in DMF (30 mL) under N2 at 0° C. was treated with NaH (1.37 g, 4.0 mol equiv) in two portions. The reaction was stirred 0.5 h at 0° C. and 1 h at rt. The reaction was carefully poured into 50 g of crushed ice, diluted to 100 mL with water, then extracted with EtOAc-hexanes (1:1, 100 mL×3). Organic extracts were washed with water (100 mL×2), dried (Na2SO4) and concentrated. Flash chromatography with 15% EtOAc-hexanes gave 3.58 g (94%) of the title compound as a clear liquid.

reactant | 3-O-(4-methoxybenzyl)-D-galactal | 8.56 mmol, 2.28 g | COC1=CC=C(CO[C@@H]2C=CO[C@@H]([C@@H]2O)CO)C=C1 | C14H18O5
reactant | benzyl bromide | C(C1=CC=CC=C1)Br | C7H7Br
reactant | NaH | 4.0 mol, 1.37 g | [H-].[Na+]
solvent | DMF | 30 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 4,6-di-O-benzyl-3-O-(4-methoxybenzyl)-D-galactal | 3.58 g, 94% | C(C1=CC=CC=C1)O[C@@H]1[C@@H](C=CO[C@@H]1COCC1=CC=CC=C1)OCC1=CC=C(C=C1)OC | C28H30O5
